US05393755
To methyl 1-methyl-2-oxocyclopentanecarboxylate (20.0 g=128 mmol) in THF (800 ml) add portionwise lithium tri-t-butoxyaluminohydride (40.7 g=160 mmol). Stir 1 hr and partition between Et2O and 1.0N HCl. Dry and concentrate to obtain methyl 1-methyl-2-hydroxycyclopentanecarboxylate, largely the 1β-methyl-2β-hydroxy isomer, as an oil.

reactant | methyl 1-methyl-2-oxocyclopentanecarboxylate | 128 mmol, 20.0 g | CC1(C(CCC1)=O)C(=O)OC | C8H12O3
reactant | lithium tri-t-butoxyaluminohydride | 160 mmol, 40.7 g | C(C)(C)(C)O[AlH-](OC(C)(C)C)OC(C)(C)C.[Li+]
solvent | THF | 800 ml | C1CCOC1 | C4H8O
product | methyl 1-methyl-2-hydroxycyclopentanecarboxylate | CC1(C(CCC1)O)C(=O)OC | C8H14O3
